US08022062B2
4-Aminomethyl-1-methylindole:
Dissolve 1-methylindole-4-carbonitrile (1.0 g, 6.18 mmol) in anhydrous THF (10 mL) and add slowly to 1M lithium aluminum hydride in THF (12.4 mL, 12.37 mmol) at ambient temperature. Heat the reaction mixture at 50° C. for 17 h and cool to ambient temperature. Quench the reaction mixture with water until a granular precipitate starts to form and filter through a pad of Celite®. Evaporate the solvent and purify by SCX chromatography to obtain the title compound as a yellow oil (0.9 g, 91%). GC-MS m/z: 160 (M*).

reactant | 1-methylindole-4-carbonitrile | 6.18 mmol, 1.0 g | CN1C=CC=2C(=CC=CC12)C#N | C10H8N2
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 12.37 mmol, 12.4 mL | C1CCOC1 | C4H8O
product | 4-Aminomethyl-1-methylindole | 0.9 g, 91% | NCC1=C2C=CN(C2=CC=C1)C | C10H12N2
